US07319170B2
Step B: Preparation of 4-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide
To a solution of 1-(3-bromopropoxy)-4-phenoxy-2-propylbenzene (1.01 g, 2.9 mmol) and 4-hydroxybenzenesulfonamide (0.5 g, 2.9 mmol) in dry DMF (29 mL) was added cesium carbonate (1.04 g, 3.2 mmol). The resulting suspension was stirred in a 50° C. oil bath for 5 h. After cooling to room temperature, the reaction suspension was concentrated under vacuum to a residue, which was then partitioned between ethyl acetate and water. The ethyl acetate phase was dried over sodium sulfate, filtered, and concentrated to an oil. The oil was chromatographed over silica gel with hexanes/ethyl acetate (2:1) to isolate the title compound.,

reactant | 1-(3-bromopropoxy)-4-phenoxy-2-propylbenzene | 2.9 mmol, 1.01 g | BrCCCOC1=C(C=C(C=C1)OC1=CC=CC=C1)CCC | C18H21BrO2
reactant | 4-hydroxybenzenesulfonamide | 2.9 mmol, 0.5 g | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
reactant | cesium carbonate | 3.2 mmol, 1.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 29 mL | CN(C)C=O | C3H7NO
product | 4-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide | O(C1=CC=CC=C1)C1=CC(=C(OCCCOC2=CC=C(C=C2)S(=O)(=O)N)C=C1)CCC | C24H27NO5S
